US08541404B2
Ferrous powder (19.8 g, 354 mmol), ammonium chloride (1.1 g, 19.7 mmol) and acetic acid (4.9 ml, 86.5 mmol) were suspended in 300 ml water and stirred at 50° C. for 15 min. To this mixture, a solution of N-(4-bromo-2-nitrophenyl)-2-chloroacetamide (11.5 g, 39.3 mmol) in 100 ml DMF was added quickly. After stirring for 15 min, the mixture was basified to pH 9 with aqueous sodium carbonate solution. The remaining solids were filtered and washed with water and ethyl acetate. Extraction of the water layer with ethyl acetate, washing of the combined organic layers with brine, drying over MgSO4, removing the solvent under reduced pressure and purification of the crude product by flash chromatography on silica gel (petroleum ether/ethyl acetate, 1/1) yielded N-(2-amino-4-bromophenyl)-2-chloroacetamide (4.5 g, 17.0 mmol, 43%) as an off-white solid.

reactant | ammonium chloride | 19.7 mmol, 1.1 g | [Cl-].[NH4+]
reactant | acetic acid | 86.5 mmol, 4.9 ml | C(C)(=O)O | C2H4O2
reactant | N-(4-bromo-2-nitrophenyl)-2-chloroacetamide | 39.3 mmol, 11.5 g | BrC1=CC(=C(C=C1)NC(CCl)=O)[N+](=O)[O-] | C8H6BrClN2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 300 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-(2-amino-4-bromophenyl)-2-chloroacetamide | 17.0 mmol, 4.5 g, 43% | NC1=C(C=CC(=C1)Br)NC(CCl)=O | C8H8BrClN2O
